US06174874B1
Di(tert-butyl) [4-(bromomethyl)benzoyl]phosphonate
A mixture of di(tert-butyl) (4-methylbenzoyl)phosphonate (10 g), NBS (8.3 g), NaHCO3 (10 g) and benzoyl peroxide (0.1 g) in 200 mL of CCl4 was heated to reflux for 20 min. The mixture was cooled to room temperature, diluted with 200 mL of 10:1 hexane/EtOAc and filtered through a pad of silca gel. The filtrate was concentrated and the residue was swished from hexane to give 2.8 g of the title compound as a beige solid.

reactant | di(tert-butyl) (4-methylbenzoyl)phosphonate | 10 g | CC1=CC=C(C(=O)P(OC(C)(C)C)(OC(C)(C)C)=O)C=C1 | C16H25O4P
reactant | NBS | 8.3 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | NaHCO3 | 10 g | C(=O)(O)[O-].[Na+]
solvent | CCl4 | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | hexane EtOAc | 200 mL | CCCCCC.CCOC(=O)C
catalyst | benzoyl peroxide | 0.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | Di(tert-butyl) [4-(bromomethyl)benzoyl]phosphonate | 2.8 g | BrCC1=CC=C(C(=O)P(OC(C)(C)C)(OC(C)(C)C)=O)C=C1 | C16H24BrO4P
